US07410966B2
6-Bromo-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine and piperidine using the method described in Example 46.

reactant | 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCCl | C15H13BrClN3O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Bromo-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCN2CCCCC2 | C20H23BrN4O
